US04701465
Synthesis of N-(3-phenoxy)propionyl-prolinol (Compound No. 20)
A mixture of N-(3-phenoxy)propionyl-proline methyl ester (2.8 g) and sodium borohydride (950 mg) was suspended in tertiary butyl alcohol (40 ml). To the stirred suspension, dry methanol (8 ml) was added dropwise under reflux. Thereafter, the mixture was stirred under reflux for 1 hour. The heated mixture was cooled to room temperature and water (10 ml) was added under cooling with ice. Methanol and tertiary butyl alcohol were distilled off under vacuum and the residue was subjected to extraction with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate. The solvent was distilled off under vacuum and the resulting crude product was purified by medium-pressure liquid column chromatography on silica gel (solvent: chloroform) to obtain the end compound as an oil (2.3 g).

reactant | N-(3-phenoxy)propionyl-proline methyl ester | 2.8 g | COC([C@H]1N(CCC1)C(CCOC1=CC=CC=C1)=O)=O | C15H19NO4
reactant | sodium borohydride | 950 mg | [BH4-].[Na+]
reactant | methanol | 8 ml | CO | CH4O
reactant | water | 10 ml | O | H2O
solvent | tertiary butyl alcohol | 40 ml | C(C)(C)(C)O | C4H10O
product | N-(3-phenoxy)propionyl-prolinol | 2.3 g | O(C1=CC=CC=C1)CCC(=O)N1[C@H](CO)CCC1 | C14H19NO3
